US07238693B2
1-(3-nitrophenyl)piperazine
28.4 g (0.33 mol, 5.5 eq) of piperazine is dissolved in 50 ml of DMSO. 6.4 ml (60 mmol) of 2-fluoronitrobenzene is added. The mixture is heated at 100° C. for 60 hours. After cooling, the reaction mixture is transferred into 530 ml of water. The precipitate formed is filtered and the filtrate extracted with Et2O. After drying on MgSO4 and concentration under vacuum, the crude product is purified by column chromatography (eluent CH2Cl2/MeOH 9:1) to produce 8.04 g of the expected compound in the form of an orange oil which crystallizes at room temperature (yield: 65%).

reactant | piperazine | 0.33 mol, 28.4 g, 5.5 eq | N1CCNCC1 | C4H10N2
reactant | 2-fluoronitrobenzene | 60 mmol, 6.4 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | 530 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 1-(3-nitrophenyl)piperazine | 8.04 g, yield: 65% | [N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1 | C10H13N3O2
